US08217177B2
A 25 mL RB flask was charged with (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone (0.200 g, 0.57 mmol) and THF (2.00 ml, 24 mmol), then cooled to 0° C. methylmagnesium bromide (0.76 ml, 2.2 mmol) was added dropwise and the mixture was stirred at room temperature for 5 hours. This was diluted with 2 N HCl (1 mL) and water (25 mL), then extracted with DCM (25 mL×2) and EtOAc (25 mL). The combined organics were washed with brine and dried with MgSO4, filtered, and concentrated. The resulting oil was purified by MPLC using a 40 g RediSep column, eluting with 2-6% MeOH/DCM over 40 minutes. 1-(6-phenylimidazo[1,2-b]pyridazin-3-yl)-1-(quinolin-6-yl)ethanol (0.082 g, 39% yield) was isolated as a tan solid. MS (ESI pos. ion) m/z: 367 (MH+). Calc'd exact mass for C23H18N4O: 366.

reactant | (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone | 0.57 mmol, 0.200 g | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=CC=NC1=CC2 | C22H14N4O
reactant | THF | 24 mmol, 2.00 ml | C1CCOC1 | C4H8O
reactant | methylmagnesium bromide | 2.2 mmol, 0.76 ml | C[Mg]Br
solvent | HCl | 2 N, 1 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
product | 1-(6-phenylimidazo[1,2-b]pyridazin-3-yl)-1-(quinolin-6-yl)ethanol | 0.082 g, 39% yield | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C=C1C=CC=NC1=CC2 | C23H18N4O
